US05004747
A stirred solution of crude 2-(4-fluorophenyl)-4-isopropyl-1-oxo-1,2-dihydroisoquinoline-3-carbonyl chloride (21 g) in dry tetrahydrofuran (300 ml) was treated dropwise with a solution of lithium borohydride in tetrahydrofuran (26 ml; 2.0M) and the mixture stirred at room temperature for 18 hours. The reaction mixture was then treated dropwise with water (50 ml), diethyl ether (500 ml) and more water (200 ml) and the organic layer was separated, washed with water (200 ml) and brine (200 ml), dried over magnesium sulphate and evaporated to leave a yellow oil. This was triturated with a hot mixture of diethyl ether (200 ml) and n-hexane (400 ml) to give 2-(4-fluorophenyl)-3-hydroxymethyl-4-isopropyl-1-oxo-1,2-dihydroisoquinoline (13.7 g) in the form of a white solid, m.p. 157°-158° C. [Elemental analysis: C, 73.1; H, 5.7; N, 4.4%; calculated: C, 73.3; H, 5.8; N, 4.5%; NMR (in CDCl3): 1.55 (7H, d, J=8 Hz,), 3.65 (1H, sept, J=8 Hz), 4.4 (2H, s), 7.1-7.4 (4H, m), 7.5 (1H, t, J=8 Hz,), 7.7 (1H, t, J=8 Hz), 8.04 (1H, d, J=8 Hz), 8.5 (1H, d, J=8 Hz)].

reactant | 2-(4-fluorophenyl)-4-isopropyl-1-oxo-1,2-dihydroisoquinoline-3-carbonyl chloride | 21 g | FC1=CC=C(C=C1)N1C(C2=CC=CC=C2C(=C1C(=O)Cl)C(C)C)=O | C19H15ClFNO2
reactant | lithium borohydride | [BH4-].[Li+]
reactant | water | 50 ml | O | H2O
reactant | diethyl ether | 500 ml | C(C)OCC | C4H10O
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0M, 26 ml | O1CCCC1 | C4H8O
product | 2-(4-fluorophenyl)-3-hydroxymethyl-4-isopropyl-1-oxo-1,2-dihydroisoquinoline | 13.7 g | FC1=CC=C(C=C1)N1C(C2=CC=CC=C2C(=C1CO)C(C)C)=O | C19H18FNO2
